US07576165B2
Synthesis of 1,2-bis(2-(3H-1,2,3-triazol-4-ylthio)ethoxy)ethane (Scheme 15)
10 ml of 1,2-bis(2-iodoethoxy)-ethane was dropped into the solution of 20 mmole 5-mercapto-1H-1,2,3-triazole (sodium salt) in 20 ml ethanol, and stirred for 24 hours at room temperature. After the solvent was evaporated in vacuum, the residual was separated with silica gel column. Elution with hexane/ethylacetate (1/3) first, and then with pure ethyl acetate gave 2.70 g product as viscous solid. Yield: 88%. 1H NMR (CDCl3): δ(ppm) 7.72 (2H, s), 3.74 (4H, t, JH-H=6.19), 3.65 (4H, s), 3.07 (4H, t, JH-H=6.19).

reactant | 1,2-bis(2-iodoethoxy)-ethane | 10 ml | ICCOCCOCCI | C6H12I2O2
reactant | 5-mercapto-1H-1,2,3-triazole | 20 mmole | SC1=CN=NN1 | C2H3N3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,2-bis(2-(3H-1,2,3-triazol-4-ylthio)ethoxy)ethane | 2.70 g, Yield: 88% | N1=NNC(=C1)SCCOCCOCCSC=1NN=NC1 | C10H16N6O2S2
